### PR TITLE
[Merged by Bors] - feat: partition into subintervals/squares adapted to an open cover

### PR DESCRIPTION
**Pull request by alreadydone**
Also adds some useful instances and lemmas about the unit interval.

The subsquares version will be useful for Van Kampen.

---

- [x] depends on: #7976 

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Topology/UnitInterval.lean [hunk 1]
```diff
@@ -73,6 +72,13 @@ instance hasOne : One I :=
   ⟨⟨1, by constructor <;> norm_num⟩⟩
 #align unit_interval.has_one unitInterval.hasOne
 
+instance : ZeroLEOneClass I := ⟨@zero_le_one ℝ _ _ _ _⟩
+
+instance : BoundedOrder I := Set.Icc.boundedOrder zero_le_one
+
+lemma univ_eq_Icc : (univ : Set I) = Icc 0 1 := by
+  ext ⟨t, t0, t1⟩; simp_rw [mem_univ, true_iff]; exact ⟨t0, t1⟩
```
Comment (eric-wieser) [inline Mathlib/Topology/UnitInterval.lean:80]: This lemma looks a bit misleading! Perhaps to help the reader:
```suggestion
lemma univ_eq_Icc : (univ : Set I) = Icc (0 : I) (1 : I) := by
  ext ⟨t, t0, t1⟩; simp_rw [mem_univ, true_iff]; exact ⟨t0, t1⟩
```
It would be nice to have another lemma via `''` where the RHS lives in `ℝ`, but you can declare that out of scope

File: Mathlib/Topology/UnitInterval.lean [hunk 2]
```diff
@@ -129,6 +135,14 @@ theorem continuous_symm : Continuous σ :=
   (continuous_const.add continuous_induced_dom.neg).subtype_mk _
 #align unit_interval.continuous_symm unitInterval.continuous_symm
 
+lemma antitone_symm : Antitone σ := fun _ _ h ↦ sub_le_sub_left (α := ℝ) h _
```
Comment (eric-wieser) [inline Mathlib/Topology/UnitInterval.lean:138]: It's `StrictAnti`, isn't it?

File: Mathlib/Topology/UnitInterval.lean [hunk 3]
```diff
@@ -129,6 +135,14 @@ theorem continuous_symm : Continuous σ :=
...
+
+lemma bijective_symm : Function.Bijective σ :=
+  Function.bijective_iff_has_inverse.mpr ⟨_, symm_symm, symm_symm⟩
```
Comment (eric-wieser) [inline Mathlib/Topology/UnitInterval.lean:141]: nit: I think you can get here even faster via `Involutive.bijective`

File: Mathlib/Topology/UnitInterval.lean [hunk 4]
```diff
@@ -179,6 +193,87 @@ theorem two_mul_sub_one_mem_iff {t : ℝ} : 2 * t - 1 ∈ I ↔ t ∈ Set.Icc (1
...
+  · rw [abs_sub_comm, abs_sub_comm c]; exact this (le_of_not_le hdc)
+  rw [abs_eq_self.2 (sub_nonneg.2 hdc), abs_eq_self.2 (sub_nonneg.2 <| monotone_projIcc h hdc)]
+  rw [← sub_nonneg] at hdc
+  refine (max_sub_max_le_max _ _ _ _).trans (max_le (by rwa [sub_self]) ?_)
+  refine ((le_abs_self _).trans <| abs_min_sub_min_le_max _ _ _ _).trans (max_le ?_ ?_)
+  · rwa [sub_self, abs_zero]
+  · exact (abs_eq_self.mpr hdc).le
+
+/-- Equally spaced points in a closed interval. -/
+def addNsmul (δ : α) (n : ℕ) : Icc a b := projIcc a b h (a + n • δ)
```
Comment (eric-wieser) [inline Mathlib/Topology/UnitInterval.lean:215]: This docstring seems a bit misleading, since for large `n` these are not equally spaced after all.

File: Mathlib/Topology/UnitInterval.lean [hunk 5]
```diff
@@ -179,6 +193,87 @@ theorem two_mul_sub_one_mem_iff {t : ℝ} : 2 * t - 1 ∈ I ↔ t ∈ Set.Icc (1
...
+    (le_abs_self _).trans <| (abs_projIcc_sub_projIcc h).trans <| by
+      rw [add_sub_add_comm, sub_self, zero_add, succ_nsmul, add_sub_cancel]
+      exact (abs_eq_self.mpr hδ).le
+
+end Set.Icc
+
+open scoped unitInterval
+
+/-- Any open cover of a closed interval in ℝ can be refined to
+  a finite partition into subintervals. -/
```
Comment (eric-wieser) [inline Mathlib/Topology/UnitInterval.lean:243]:
```suggestion
/-- Any open cover `c` of a closed interval `[a, b]` in ℝ can be refined to
  a finite partition into subintervals. -/
```

File: Mathlib/Topology/UnitInterval.lean [hunk 6]
```diff
@@ -179,6 +193,87 @@ theorem two_mul_sub_one_mem_iff {t : ℝ} : 2 * t - 1 ∈ I ↔ t ∈ Set.Icc (1
...
+  · exact (abs_eq_self.mpr hdc).le
+
+/-- Equally spaced points in a closed interval. -/
+def addNsmul (δ : α) (n : ℕ) : Icc a b := projIcc a b h (a + n • δ)
+
+lemma addNsmul_zero : addNsmul h δ 0 = a := by
+  rw [addNsmul, zero_smul, add_zero, projIcc_left]
+
+lemma addNsmul_eq_right [Archimedean α] (hδ : 0 < δ) :
+    ∃ m, ∀ n ≥ m, addNsmul h δ n = b := by
```
Comment (eric-wieser) [inline Mathlib/Topology/UnitInterval.lean:221]: I can't remember: do we prefer writing this with `tendsto`?

File: Mathlib/Topology/UnitInterval.lean [hunk 7]
```diff
@@ -179,6 +193,87 @@ theorem two_mul_sub_one_mem_iff {t : ℝ} : 2 * t - 1 ∈ I ↔ t ∈ Set.Icc (1
...
+
+end Set.Icc
+
+open scoped unitInterval
+
+/-- Any open cover of a closed interval in ℝ can be refined to
+  a finite partition into subintervals. -/
+lemma lebesgue_number_lemma_Icc {ι} {a b : ℝ} (h : a ≤ b) {c : ι → Set (Icc a b)}
+    (hc₁ : ∀ i, IsOpen (c i)) (hc₂ : univ ⊆ ⋃ i, c i) : ∃ t : ℕ → Icc a b, t 0 = a ∧
+      Monotone t ∧ (∃ m, ∀ n ≥ m, t n = b) ∧ ∀ n, ∃ i, Icc (t n) (t (n + 1)) ⊆ c i := by
```
Comment (eric-wieser) [inline Mathlib/Topology/UnitInterval.lean:246]: Is this more or less convenient as:
```suggestion
    (hc₁ : ∀ i, IsOpen (c i)) (hc₂ : univ ⊆ ⋃ i, c i) :
    ∃ (n : ℕ) (t : Fin n.succ → Icc a b), t 0 = a ∧ t n = b ∧ Monotone t ∧ ∀ n, ∃ i, Icc (t n) (t (n + 1)) ⊆ c i := by
```

File: Mathlib/Topology/UnitInterval.lean (hunk 6 above)
Comment (alreadydone) [reply Mathlib/Topology/UnitInterval.lean:223]: It should be equivalent to `tendsto (addNsmul h δ) atTop (pure b)` but I think the spelling is too high-tech here ...

File: Mathlib/Topology/UnitInterval.lean (hunk 7 above)
Comment (alreadydone) [reply Mathlib/Topology/UnitInterval.lean:248]: Not sure what benefits that has; the current formulation is quite convenient for doing [induction](https://gist.github.com/alreadydone/c88265c99c73fa822d48e1abfd01282f#file-homotopylifting-lean-L207-L208) [over Nat](https://gist.github.com/alreadydone/c88265c99c73fa822d48e1abfd01282f#file-homotopylifting-lean-L281-L282).

File: Mathlib/Topology/UnitInterval.lean (hunk 1 above)
Comment (alreadydone) [reply Mathlib/Topology/UnitInterval.lean]: Do you mean [Set.image_subtype_val_Icc](https://leanprover-community.github.io/mathlib4_docs/Mathlib/Data/Set/Intervals/OrdConnected.html#Set.image_subtype_val_Icc)? (Apparently we lack the OrdConnected instance on Icc though.) That lemma would not be specific to unit interval; not every interval has Zero and One.

File: Mathlib/Topology/UnitInterval.lean (hunk 2 above)
Comment (alreadydone) [reply Mathlib/Topology/UnitInterval.lean]: done!

File: Mathlib/Topology/UnitInterval.lean (hunk 3 above)
Comment (alreadydone) [reply Mathlib/Topology/UnitInterval.lean]: golfed and added `involutive_symm`

File: Mathlib/Topology/UnitInterval.lean (hunk 4 above)
Comment (alreadydone) [reply Mathlib/Topology/UnitInterval.lean]: expanded

**Review by alreadydone — COMMENTED** [review]
Thanks for the review!

File: Mathlib/Topology/UnitInterval.lean (hunk 1 above)
Comment (eric-wieser) [reply Mathlib/Topology/UnitInterval.lean]: I think it would follow from that lemma, yes; so `Subtype.val '' (univ : Set I) = Icc 0 1`.

File: Mathlib/Topology/UnitInterval.lean (hunk 7 above)
Comment (eric-wieser) [reply Mathlib/Topology/UnitInterval.lean:248]: The main benefit is that the "junk" values after `t m` go away.

File: Mathlib/Topology/UnitInterval.lean (hunk 6 above)
Comment (eric-wieser) [reply Mathlib/Topology/UnitInterval.lean:223]: I'm not familiar enough with the use of `Tendsto` to know whether this is too high-tech

File: Mathlib/Topology/UnitInterval.lean (hunk 7 above)
Comment (eric-wieser) [reply Mathlib/Topology/UnitInterval.lean:248]: And you can probably do one of the tuple inductions on `t`, but maybe it's not convenient

**Comment by eric-wieser** [comment]
None of my comments above are intended to be blocking, this is outside an area I'm all that familiar with; they were intended as discussion points for (or to be ignored by) another reviewer who knows better.

File: Mathlib/Topology/UnitInterval.lean (hunk 7 above)
Comment (alreadydone) [reply Mathlib/Topology/UnitInterval.lean:248]: You could argue that the last gap may not be the same as the others so there's "junk" there as well :) We could make it a finite strict monotone sequence by truncating, and if `α` is a field (or DivisibleBy Nat) we can get a genuinely *equally spaced* finite sequence with arbitrarily small gap, but I don't have uses for them. I consider this as a technical lemma so the important thing is that it applies easily (if stated in terms of Fin people would have to look into the less familiar Fin API), and people who need the stronger versions can get them by proving more about `addNsmul`.

File: Mathlib/Topology/UnitInterval.lean (hunk 1 above)
Comment (alreadydone) [reply Mathlib/Topology/UnitInterval.lean]: Oh I shouldn't be mentioning [Set.image_subtype_val_Icc](https://leanprover-community.github.io/mathlib4_docs/Mathlib/Data/Set/Intervals/OrdConnected.html#Set.image_subtype_val_Icc). Your lemma is just [Set.image_univ](https://leanprover-community.github.io/mathlib4_docs/Mathlib/Data/Set/Image.html#Set.image_univ) trans [Subtype.range_val](https://leanprover-community.github.io/mathlib4_docs/Mathlib/Data/Set/Image.html#Subtype.range_val) (note `I` is abbrev of `Icc 0 1`).

File: Mathlib/Topology/UnitInterval.lean [hunk 8]
```diff
@@ -179,6 +194,88 @@ theorem two_mul_sub_one_mem_iff {t : ℝ} : 2 * t - 1 ∈ I ↔ t ∈ Set.Icc (1
...
+      rw [add_sub_add_comm, sub_self, zero_add, succ_nsmul, add_sub_cancel]
+      exact (abs_eq_self.mpr hδ).le
+
+end Set.Icc
+
+open scoped unitInterval
+
+/-- Any open cover `c` of a closed interval `[a, b]` in ℝ can be refined to
+  a finite partition into subintervals. -/
+lemma lebesgue_number_lemma_Icc {ι} {a b : ℝ} (h : a ≤ b) {c : ι → Set (Icc a b)}
```
Comment (PatrickMassot) [inline Mathlib/Topology/UnitInterval.lean:246]: I don't think is a great name. We usually don't name theorem using the main proof ingredient, we try to describe the statement. This also applies to the next two statements.

**Review by PatrickMassot — COMMENTED** [review]
bors d+

File: Mathlib/Topology/UnitInterval.lean [hunk 9]
```diff
@@ -73,6 +72,13 @@ instance hasOne : One I :=
   ⟨⟨1, by constructor <;> norm_num⟩⟩
 #align unit_interval.has_one unitInterval.hasOne
 
+instance : ZeroLEOneClass I := ⟨@zero_le_one ℝ _ _ _ _⟩
+
+instance : BoundedOrder I := Set.Icc.boundedOrder zero_le_one
+
+lemma univ_eq_Icc : (univ : Set I) = Icc (0 : I) (1 : I) := by
+  ext ⟨t, t0, t1⟩; simp_rw [mem_univ, true_iff]; exact ⟨t0, t1⟩
```
Comment (urkud) [inline Mathlib/Topology/UnitInterval.lean:80]: This is `Icc_bot_top.symm`.

Comment (alreadydone) [reply Mathlib/Topology/UnitInterval.lean:80]: Thanks

File: Mathlib/Topology/UnitInterval.lean (hunk 8 above)
Comment (alreadydone) [reply Mathlib/Topology/UnitInterval.lean]: Indeed; I had the impression it's roughly equivalent to the Lebesgue number lemma, but there's no obvious reverse implication. Changed to `exists_monotone_Icc_subset_open_cover_Icc/unitInterval(_prod_self)`.
